US07304071B2
4-(5-Chloro-2-fluoropyridin-4-yl)-benzoic acid methyl ester (90 mg, 0.34 mmol) was dissolved in DMSO in a screw cap tube and 0.5 mL isopropylamine was added. The tube was sealed and heated to 90° C. for 2 days. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and concentrated to an oil, which was purified by chromatography on silica (EtOAc 0 to 20%/hexanes) to give 70 mg of 4-(5-chloro-2-isopropylamino-pyridin-4-yl)-benzoic acid methyl ester, 0.23 mmol, 67% yield. 1H NMR 500 MHz (CDCl3): 8.08 (m, 3H), 7.45 (d, 2H), 6.22 (s, 1H), 4.37 (d, 1H), 3.88 (s, 3H), 3.80 (m, 1H), 1.17 (d, 6H).

reactant | 4-(5-Chloro-2-fluoropyridin-4-yl)-benzoic acid methyl ester | 0.34 mmol, 90 mg | COC(C1=CC=C(C=C1)C1=CC(=NC=C1Cl)F)=O | C13H9ClFNO2
reactant | isopropylamine | 0.5 mL | C(C)(C)N | C3H9N
solvent | DMSO | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(5-chloro-2-isopropylamino-pyridin-4-yl)-benzoic acid methyl ester | 70 mg, 67% yield | COC(C1=CC=C(C=C1)C1=CC(=NC=C1Cl)NC(C)C)=O | C16H17ClN2O2
